US07544695B2
Benzyl 9-(5-{[(2-aminophenyl)amino]carbonyl}pyridin-2-yl)-3,9-diazaspiro[5.5]-undecane-3-carboxylate
A solution of tert-butyl 9-[5-(methoxycarbonyl)pyridin-2-yl]-3,9-diazaspiro[5.5]undecane-3-carboxylate (100 mg, 0.257 mmol) in 1 mL of CH2Cl2 and 1 mL of TFA was stirred for 1 h and concentrated. The oil was redissolved in 2 mL of CH2Cl2 and treated with NEt3 (0.15 mL, 1.08 mmol) and CbzCl (0.060 mL, 0.42 mmol), then stirred for 8 h. The mixture was partitioned between EtOAc and sat'd NaHCO3, dried (Na2SO4), filtered and concentrated. The residue was stirred in 3 mL of 1:1:1 MeOH/THF/water with LiOH.H2O (30 mg, 0.71 mmol) for 10 h, concentrated to dryness, dissolved in 2 mL of DMF, treated with EDC (150 mg, 0.79 mmol), HOBt (100 mg, 0.74 mmol), and phenylenediamine (100 mg, 0.93 mmol). The mixture was stirred for 18 h, concentrated, and triturated with methanol giving the title compound; MS (ESI+): cal'd [M+1]+ 500.3, obs'd 500.3.

reactant | tert-butyl 9-[5-(methoxycarbonyl)pyridin-2-yl]-3,9-diazaspiro[5.5]undecane-3-carboxylate | 0.257 mmol, 100 mg | COC(=O)C=1C=CC(=NC1)N1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C21H31N3O4
reactant | NEt3 | 1.08 mmol, 0.15 mL | CCN(CC)CC | C6H15N
reactant | CbzCl | 0.42 mmol, 0.060 mL | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
reactant | LiOH.H2O | 0.71 mmol, 30 mg | O[Li].O
reactant | EDC | 0.79 mmol, 150 mg
reactant | HOBt | 0.74 mmol, 100 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | phenylenediamine | 0.93 mmol, 100 mg | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | MeOH THF water | 3 mL | CO.C1CCOC1.O
product | Benzyl 9-(5-{[(2-aminophenyl)amino]carbonyl}pyridin-2-yl)-3,9-diazaspiro[5.5]-undecane-3-carboxylate | NC1=C(C=CC=C1)NC(=O)C=1C=CC(=NC1)N1CCC2(CCN(CC2)C(=O)OCC2=CC=CC=C2)CC1 | C29H33N5O3
